US08835428B2
2-(3-(4-((R)-2-hydroxy-2-phenylacetamido)phenyl)isoxazole-5-carboxamido)-3-methylbutanoic acid
To Methyl 2-(3-(4-((R)-2-hydroxy-2-phenylacetamido)phenyl)isoxazole-5-carboxamido)-3-methylbutanoate (135 mg) in THF (4 ml) 1 M aqueous solution of Lithium hydroxide monohydrate (0.6 ml) was added and reaction mixture was stirred at RT for 6 hours. The reaction mixture was acidified with dilute HCl and extracted with EtOAc. Organic layer was collected and dried over Na2SO4 and concentrated to obtain off white solid, which was crystallized from EtOAc to obtain the title compound as white solid. Yield: 80 mg (61%); MS (ES+): m/z 438 (M+1); 1HNMR (DMSO-d6; 300 MHz): δ 12.86 (bs, 1H), 10.2 (s, NH), 8.97 (d, 1H), 7.88 (d, 4H), 7.7 (s, 1H), 7.54 (m, 2H), 7.39-7.29 (m, 3H), 6.51 (d, 1H), 5.13 (d, 1H), 4.27 (m, 1H), 2.19 (m, 1H), 0.97 (d, 6H).

reactant | Methyl 2-(3-(4-((R)-2-hydroxy-2-phenylacetamido)phenyl)isoxazole-5-carboxamido)-3-methylbutanoate | 135 mg | O[C@@H](C(=O)NC1=CC=C(C=C1)C1=NOC(=C1)C(=O)NC(C(=O)OC)C(C)C)C1=CC=CC=C1 | C24H25N3O6
reactant | Lithium hydroxide monohydrate | 0.6 ml | O.[OH-].[Li+]
reactant | HCl | Cl | ClH
solvent | THF | 1 M, 4 ml | C1CCOC1 | C4H8O
product | 2-(3-(4-((R)-2-hydroxy-2-phenylacetamido)phenyl)isoxazole-5-carboxamido)-3-methylbutanoic acid | O[C@@H](C(=O)NC1=CC=C(C=C1)C1=NOC(=C1)C(=O)NC(C(=O)O)C(C)C)C1=CC=CC=C1 | C23H23N3O6
